US06166206
b) 4-[(2,3,4,6-Tetrahydro-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-2,4-dioxo-1H-pyrrolo[3,4-d]pyrimidin-5-yl)thio]butanenitrile
5-[(3-{Methanesulphonyloxy}propyl)thio]-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione (391 mg) was dissolved in dimethyformamide (15 ml) and sodium cyanide (254 mg) was added. The mixture was sonicated for 4 hours and then poured onto sodium bicarbonate (aqueous). The mixture was extracted thrice with ethyl acetate, the extracts were combined, washed twice with water and once with brine, then dried, filtered and evaporated. The resultant oil was chromatographed, eluting with ethyl acetate: isohexane (4:5) and then triturated with cyclohexane-ethyl acetate to give the title compound (95 mg).

reactant | 5-[(3-{Methanesulphonyloxy}propyl)thio]-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 391 mg | CS(=O)(=O)OCCCSC=1N(C=C2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=CC=CC1=CC=CC=C21 | C26H31N3O5S2
reactant | sodium cyanide | 254 mg | [C-]#N.[Na+]
solvent | dimethyformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-[(2,3,4,6-Tetrahydro-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-2,4-dioxo-1H-pyrrolo[3,4-d]pyrimidin-5-yl)thio]butanenitrile | 95 mg | CN1C(N(C=2C(C1=O)=C(N(C2)CC2=CC=CC1=CC=CC=C21)SCCCC#N)CC(C)C)=O | C26H28N4O2S
